Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left ___ MCP infection
 
Major Surgical or Invasive Procedure:
Irrigation and debridement of the left ___ MCP

 
History of Present Illness:
___ RHD male pmhx T12 para on oxy 5q4 daily for chronic pain
presents as tfx from ___ with concern for L hand 
infection.
Patient states he presented to OSH 2 days prior with undisclosed
fight bite LEFT hand. Per report, XR negative and OSH ED sutured
laceration. No abx administered. After closing he noted
increasing pain, swelling, erythema with purulent drainage all
within last 24 hours. ED consulted Hand Service with concern for
wound infection after beginning IV Unasyn and splinting left
hand.

On interview, patient states pain continues to get worse. States
erythema, edema, and purulent discharge all increasing since
yesterday. Was seen at ___, then ___ who began IV unasyn
and transferred to ___ this am. Denies numbness, tingling,
weakness distally. States otherwise healthy. Denies recent 
fevers
chills. Patient states TDap up to date.
 
Past Medical History:
None
 
Social History:
___
Family History:
None
 
Physical Exam:
LUE:

Hand removed from splint. Surgical incision clean without
expressible purulence. No ___ erythema of 
maceration.
Able to initiate flexion and extension of ___ finger, though
limited by swelling and pain. SILT m,r,u distribution. 
 
Brief Hospital Course:
Hospitalization Summary 
The patient presented to the emergency department and was 
evaluated by the Hand surgery team. The patient was found to 
have infection of the left ___ MCP and was admitted to the Hand 
surgery service. The patient was taken to the operating room for 
irrigation and debridement, which the patient tolerated well. 
For full details of the procedure please see the separately 
dictated operative report. The patient was taken from the OR to 
the PACU in stable condition and after satisfactory recovery 
from anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with ___ who 
determined that discharge to homewas appropriate. The ___ 
hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
WBAT in the left upper extremity. The patient will follow up 
with fellow clinic per routine. A thorough discussion was had 
with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO 5 TIMES DAILY  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
Please take complete course of antibiotics 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 by mouth Twice 
daily Disp #*14 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q8H  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth Every 4 hours 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ___ MCP infection 

 
Discharge Condition:
Stable

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for infection and underwent surgical 
washout. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated in the affected extremity in 
splint for comfort. 
- Active range of motion at all joints OK

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.
- Please take your antibiotics as prescribed 

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please complete soaks in warm water with soap three times 
daily. Repack wound after each soak. It is critical to repack 
your wound after soaks. 
- Splint can be used for comfort. 
- Do NOT get splint wet

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

Physical Therapy:
Weight bearing as tolerated left hand. Splint only for comfort. 
Active range of motion in all joints. No passive ROM exercise in 
left ___ MCP (active ROM OK). 
Treatments Frequency:
Hand soaks in warm water + soap TID. 
Repack wound after each soak. 
 
Followup Instructions:
___